US05034404
To a suspension of 0.44g of 60% sodium hydride (in mineral oil) in 10ml of DMF was added 1.32g of N,N-dimethyl-N'-nitroguanidine during 20 minutes at room temperature. After stirring for 10 minutes, 1.62g of 2-chloro-5-(chloromethyl)pyridine was added to the mixture in 5 minutes, and stirred for 2 hours at room temperature and for 4 hours in an oil bath of 60° C. After filtering insoluble materials off, the filtrate was concentrated. The resulting residue was purified by a column chromatography [developing solvent: dichloromethane-ethyl acetate (5:1-3:1)] to obtain 0.82g of 1-(6-chloro-3-pyridylmethyl)-3,3-dimethyl-2nitroguanidine (Compound No. 6).

reactant | sodium hydride | 0.44g | [H-].[Na+]
reactant | N,N-dimethyl-N'-nitroguanidine | 1.32g | CN(C(=N)N[N+](=O)[O-])C | C3H8N4O2
reactant | 2-chloro-5-(chloromethyl)pyridine | 1.62g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | DMF | 10ml | CN(C)C=O | C3H7NO
product | 1-(6-chloro-3-pyridylmethyl)-3,3-dimethyl-2nitroguanidine | 0.82g | ClC1=CC=C(C=N1)CNC(=N[N+](=O)[O-])N(C)C | C9H12ClN5O2
